US04322420
6-Chloro-4-(3'-methylanilino)quinazoline hydrochloride (Compound No. 4)
4.0 g of 4,6-dichloroquinazoline were dissolved in 50 ml of dioxan and then 2.0 g of m-toluidine were added. The mixture was then heated to reflux for 3 hours at 100° C. After completion of the reaction, the precipitated product was collected by filtration and recrystallized from ethanol to afford 3.7 g (yield 60%) of the desired Compound No. 4, in the form of pale yellow needles melting at 251°-254° C. (with decomposition).

reactant | 4,6-dichloroquinazoline | 4.0 g | ClC1=NC=NC2=CC=C(C=C12)Cl | C8H4Cl2N2
reactant | m-toluidine | 2.0 g | NC1=CC(=CC=C1)C | C7H9N
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 6-Chloro-4-(3'-methylanilino)quinazoline hydrochloride | 3.7 g, yield 60% | Cl.ClC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)C | InChI=1S/C15H12ClN3.ClH/c1-10-3-2-4-12(7-10)19-15-13-8-11(16)5-6-14(13)17-9-18-15;/h2-9H,1H3,(H,17,18,19);1H
